US05576335
A mixture of 4-(3-bromopropyl)-2,6-di-t-butylphenol (1.20 g), 2-nitrophenol (0.51 g), potassium carbonate (1.01 g) and a catalytic amount of sodium iodide was stirred in dimethylformamide (10 ml) at 60°-70° C. for 1.5 hrs. The reaction solution was poured into water, extracted with ethyl acetate, washed with water and then saturated saline, and dried over anhydrous MgSO4. After distilling off the solvent, the residue was purified by a silica gel column chromatography (hexane:ethyl acetate=10:1) to give 4-[3-(2-nitrophenoxy)propyl]-2,6-di-t-butylphenol (1.05 g, 74%).

reactant | 4-(3-bromopropyl)-2,6-di-t-butylphenol | 1.20 g | BrCCCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H27BrO
reactant | 2-nitrophenol | 0.51 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | potassium carbonate | 1.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[3-(2-nitrophenoxy)propyl]-2,6-di-t-butylphenol | 1.05 g, 74% | [N+](=O)([O-])C1=C(OCCCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC=C1 | C23H31NO4
